US04883815
8.15 g (0.025 mol) of methyl 2-(4-acetamidobutyryl)-5-chlorohydrocinnamate are stirred at room temperature for 30 hours in 200 ml of a solution of ammonia in methanol. After concentration of the solution the residue is extracted with methylene chloride/water, dried with magnesium sulfate, the solvent is distilled in a vacuum. The residue is chromatographed on silica gel with chloroform-methanol (9:1). Recrystallization from methanol/ether yields 2-(4-acetamidobutyryl)-5-chlorohydrocinnamide as white crystals with melting point 149°-151°.

reactant | methyl 2-(4-acetamidobutyryl)-5-chlorohydrocinnamate | 0.025 mol, 8.15 g | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)OC)C=C(C=C1)Cl | C16H20ClNO4
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-(4-acetamidobutyryl)-5-chlorohydrocinnamide | CC(=O)NCCCC(=O)C1=C(C=C(C=C1)Cl)CCC(=O)N | C15H19ClN2O3
